### PR TITLE
METATHEOREM derivation preserves size

### PR DESCRIPTION
**Pull request by codyroux**
Theorem: if `L ==> L'` then either `L'` is trivial (`w = w`) or `L'` is at least as large as `L`.

We give a proof theoretic proof, a model theoretic might be nice as well, but this is still kind of cute.

Re-created to replace https://github.com/teorth/equational_theories/pull/152

### CODE REVIEW

File: equational_theories/OrderMetatheorem.lean [hunk 1]
```diff
@@ -0,0 +1,69 @@
...
+    case inl.inl h₁ h₂ =>
+      left;
+      rw [h₁, h₂]; constructor <;> trivial
+    case inl.inr h₁ h₂ =>
+      right; rw [h₁]
+      omega
+    case inr.inl h₁ h₂ =>
+      right; rw [← h₁]; omega
+    case inr.inr =>
+      right; omega
```
Comment (fpvandoorn) [inline equational_theories/OrderMetatheorem.lean:63]: golf
```suggestion
theorem derive.PreservesOrder {α} (Γ : Ctx α) (n : Nat) (sizeBound : Ctx.IsOfOrder Γ n)
    (E : MagmaLaw α) (h : Γ ⊢ E) :
    E.lhs = E.rhs ∨ n ≤ MagmaLaw.order E := by
  rw [or_iff_not_imp_left, ← ne_eq]
  intro h2
  induction h with
  | Ax E h => exact sizeBound E h
  | Ref t => simp at h2
  | Sym t u _ ih => simpa [MagmaLaw.order, min_comm] using ih h2.symm
  | Trans t u v _ _ ih₁ ih₂ =>
    simp at ih₁ ih₂ h2 ⊢
    by_cases h : t = u
    · subst h
      exact ih₂ h2
    by_cases h3 : u = v
    · subst h3
      exact ih₁ h2
    exact ⟨ih₁ h |>.1, ih₂ h3 |>.2⟩
  | Subst t u σ _ ih =>
    simp at ih h2 ⊢
    specialize ih (by rintro rfl; contradiction)
    exact ⟨ih.1.trans <| t.orderLtSubst σ, ih.2.trans <| u.orderLtSubst σ⟩
  | Cong t₁ t₂ u₁ u₂ _ _ ih₁ ih₂ => 
    simp at ih₁ ih₂ h2 ⊢
    by_cases h : t₁ = t₂ <;> [specialize ih₂ (h2 h); specialize ih₁ h] <;> omega
```

Comment (codyroux) [reply equational_theories/OrderMetatheorem.lean:63]: lgtm
